US08535869B2
Synthesis of 4-hydroxynaphthyl-1-tetrahydrothiophenium chloride
In 50 g of methanol were dissolved 10 g (0.069 mol) of 1-naphthol and 7.2 g (0.069 mol) of tetramethylene sulfoxide. The solution was cooled to −16° C. An excess of hydrogen chloride gas was fed to the solution at a temperature below 20° C. Nitrogen gas was bubbled to expel the excess of hydrogen chloride. The reaction solution was concentrated and combined with water and diisopropyl ether, from which a water layer was separated. It was an aqueous solution of 4-hydroxynaphthyl-1-tetrahydrothiophenium chloride. This aqueous solution was used in the subsequent step without further isolation.

reactant | 1-naphthol | 0.069 mol, 10 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | tetramethylene sulfoxide | 0.069 mol, 7.2 g | C1CCCS1=O | C4H8OS
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 50 g | CO | CH4O
product | 4-hydroxynaphthyl-1-tetrahydrothiophenium chloride | [Cl-].OC1=CC=C(C2=CC=CC=C12)[S+]1CCCC1 | InChI=1S/C14H14OS.ClH/c15-13-7-8-14(16-9-3-4-10-16)12-6-2-1-5-11(12)13;/h1-2,5-8H,3-4,9-10H2;1H
